US05700839
600 mg of N-diaminomethylene-2-methyl-4-methoxy-5-methylsulfonylbenzamide (obtainable according to Ex. 2) are boiled for 3 hours in 80 ml of pyridine together with 1 g of pyridine hydrochloride. The mixture is cooled and evaporated, and the residue is worked up in the customary manner to give N-diaminomethylene-2-methyl-4-hydroxy-5-methylsulfonylbenzamide, m.p. >260°.

reactant | N-diaminomethylene-2-methyl-4-methoxy-5-methylsulfonylbenzamide | 600 mg | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)OC)C)=O)N | C11H15N3O4S
reactant | pyridine hydrochloride | 1 g | Cl.N1=CC=CC=C1
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | N-diaminomethylene-2-methyl-4-hydroxy-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)O)C)=O)N | C10H13N3O4S
